US04118572
3.8 G. of sodium carbonate are added to a solution of 10 g. of 1-[10,11-dihydro-3-methoxy-8-methyl-dibenz[b,f]oxepin-10-yl]-piperazine in 55 ml. of butanol and then a solution of 2.5 ml. of propargyl bromide in 20 ml. of butanol is added dropwise. Then, the mixture is stirred for 20 hours at room temperature and the solvent is removed by distillation under reduced pressure. After working-up in an analogous manner to that described in Example 13, there is isolated crude 1-[10,11-dihydro-3-methoxy-8-methyl-dibenz[b,f]oxepin-10-yl]-4-(2-propynyl)-piperazine in the form of an oil. The dihydrochloride, prepared in ethanol and recrystallized from methanol/ether, melts at 210°-212° C. (with decomposition).

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-[10,11-dihydro-3-methoxy-8-methyl-dibenz[b,f]oxepin-10-yl]-piperazine | COC=1C=CC2=C(OC3=C(C(C2)N2CCNCC2)C=C(C=C3)C)C1 | C20H24N2O2
reactant | propargyl bromide | C(C#C)Br | C3H3Br
solvent | butanol | C(CCC)O | C4H10O
product | 1-[10,11-dihydro-3-methoxy-8-methyl-dibenz[b,f]oxepin-10-yl]-4-(2-propynyl)-piperazine | COC=1C=CC2=C(OC3=C(C(C2)N2CCN(CC2)CC#C)C=C(C=C3)C)C1 | C23H26N2O2
